US09388189B2
(S)-3-Hydroxy-5-(methylsulfonamido)phenyl 4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxylate
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (81 mg, 0.27 mmol), 3-hydroxy-5-(methylsulfonamido)phenyl 4-amino-6-chloropyrimidine-5-carboxylate (104 mg, 0.29 mmol), DIEA (323 μl, 1.85 mmol) and cesium fluoride (121 mg, 0.80 mmol) were suspended in tert-butanol (8 ml) and the mixture was heated at 70° C. in a sealed tube for 24 h. The solvent was evaporated under reduced pressure and the reaction mixture was diluted with ethyl acetate and washed with saturated ammonium chloride solution and brine. After evaporation of the solvent, the residue was purified by reverse phase chromatography using SP1® Purification System to give 50 mg (31% yield) as a solid. Purity 97%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.27 mmol, 81 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 3-hydroxy-5-(methylsulfonamido)phenyl 4-amino-6-chloropyrimidine-5-carboxylate | 0.29 mmol, 104 mg | NC1=NC=NC(=C1C(=O)OC1=CC(=CC(=C1)NS(=O)(=O)C)O)Cl | C12H11ClN4O5S
reactant | DIEA | 1.85 mmol, 323 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 0.80 mmol, 121 mg | [F-].[Cs+]
solvent | tert-butanol | 8 ml | C(C)(C)(C)O | C4H10O
product | (S)-3-Hydroxy-5-(methylsulfonamido)phenyl 4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxylate | 31% yield | NC1=NC=NC(=C1C(=O)OC1=CC(=CC(=C1)NS(=O)(=O)C)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H26N8O6S
